US07151096B2
A mixture of 4-acetyl-2-chloro-pyridine (1.72 g, 11 mmol) in N,N-dimethyl formamide diethyl acetal (10 mL) is heated to reflux for 1 hour and cooled to room temperature before adding hexane (8 mL). The solid is collected by filtration, washed with hexane and dried to give 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one (1.70 g); ESI-MS (m/z): 211.0 (M++H).

reactant | 4-acetyl-2-chloro-pyridine | 11 mmol, 1.72 g | C(C)(=O)C1=CC(=NC=C1)Cl | C7H6ClNO
reactant | hexane | 8 mL | CCCCCC | C6H14
reactant | N,N-dimethyl formamide diethyl acetal | 10 mL | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one | 1.70 g | CN(C=CC(=O)C1=CC(=NC=C1)Cl)C | C10H11ClN2O
